US05935956
2-(4-Chlorophenyl)-4,4a,5,6-tetrahydropyrido[2,3-h]cinnolin-3(2H)-one
Prepared according to the method described in Example 1 from methyl 5,6,7,8-tetrahydro-5-oxoquinoline-6-acetate (prepared from 7,8-dihydroquinoline-5(6H)-one (J. Med. Chem. (1991)34, 2736) according to the method of Wu et al supra) and 4-chlorophenylhydrazine.

reactant | methyl 5,6,7,8-tetrahydro-5-oxoquinoline-6-acetate | O=C1C=2C=CC=NC2CCC1CC(=O)OC | C12H13NO3
reactant | 7,8-dihydroquinoline-5(6H)-one | N1=CC=CC=2C(CCCC12)=O | C9H9NO
reactant | 4-chlorophenylhydrazine | ClC1=CC=C(C=C1)NN | C6H7ClN2
product | 2-(4-Chlorophenyl)-4,4a,5,6-tetrahydropyrido[2,3-h]cinnolin-3(2H)-one | ClC1=CC=C(C=C1)N1N=C2C3=C(CCC2CC1=O)N=CC=C3 | C17H14ClN3O
